US08026236B2
1-Methyl-6-(4-(2-(piperidin-4-yl)ethoxy)-3-(trifluoromethyl)phenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile (0.188 g), 2-(dimethylamino)acetic acid (0.090 g) and DIPEA (0.362 ml) were dissolved in NMP (2.5 ml) and HATU (0.250 g) was then added. The reaction was stirred at room temperature for 16 hours. The reaction mixture was diluted with EtOAc (30 mL) and washed with saturated sodium bicarbonate solution. Organics were dried over sodium sulphate to yield crude. Purification by flash chromatography (10 g SiO2 column, DCM to 5% MeOH in DCM gradient) afforded methyl-6-(4-(3-(methylamino)propoxy)-3-(trifluoromethyl)phenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile. (59 mg)

reactant | 1-Methyl-6-(4-(2-(piperidin-4-yl)ethoxy)-3-(trifluoromethyl)phenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile | 0.188 g | CN1C=NC=2C(=NC(=CC21)C2=CC(=C(C=C2)OCCC2CCNCC2)C(F)(F)F)C#N | C22H22F3N5O
reactant | 2-(dimethylamino)acetic acid | 0.090 g | CN(CC(=O)O)C | C4H9NO2
reactant | DIPEA | 0.362 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.250 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | NMP | 2.5 ml | CN1CCCC1=O | C5H9NO
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | methyl-6-(4-(3-(methylamino)propoxy)-3-(trifluoromethyl)phenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile | CN1C=NC=2C(=NC(=CC21)C2=CC(=C(C=C2)OCCCNC)C(F)(F)F)C#N | C19H18F3N5O
